US05635510
23.3 Synthesis of 2-[3-(3,4-dimethoxy-phenyl)-pyrrolidin-3-yl]-ethanol
Combined LiA1H4 (4.80 g, 127 mmol, 4 eq) and anhydrous THF (200 mL). Added portionwise, a slurry of [3-(3,4-dimethoxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester (9.72 g, 31.6 mmol) in THF (100 mL). After the addition was complete, the reaction was heated at reflux overnight. Cooled in an ice/NaCl bath. Cautiously added H2O (4.8 mL), NaOH (4.8 mL, 15%), and H2O (19.2 mL). Filtered. Concentrated the filtrate to obtain a residue. Dissolved the residue in dichloromethane and dried over MgSO4, filtered, and concentrated the filtrate in vacuo to obtain a residue which was dried at 0.05 Torr overnight to give the title compound. This material was used without further purification.

reactant | [3-(3,4-dimethoxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | 31.6 mmol, 9.72 g | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)OC)OC)=O | C16H21NO5
reactant | H2O | 4.8 mL | O | H2O
reactant | NaOH | 4.8 mL | [OH-].[Na+]
reactant | H2O | 19.2 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-[3-(3,4-dimethoxy-phenyl)-pyrrolidin-3-yl]-ethanol | COC=1C=C(C=CC1OC)C1(CNCC1)CCO | C14H21NO3
